US05977105
(±)-α-(Phenoxymethyl)-3-pyridinepropanol
Prepared according to the method described in Example 1a) from phenol (0.15 g), sodium hydride (0.075 g) and 3-(2-oxiranylethyl)pyridine (0.15 g) in dimethylformamide at 100° C. for 30 minutes to give the title compound as an oil (0.04 g).

reactant | phenol | 0.15 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 0.075 g | [H-].[Na+]
reactant | 3-(2-oxiranylethyl)pyridine | 0.15 g | O1C(C1)CCC=1C=NC=CC1 | C9H11NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (±)-α-(Phenoxymethyl)-3-pyridinepropanol | 0.04 g | O(C1=CC=CC=C1)CC(CCC=1C=NC=CC1)O | C15H17NO2
